US06114330
A solution of 0.53 ml of acryloyl chloride in 3 ml of methylene chloride is slowly added dropwise at 0° C. to a solution of 0.78 g of phthalazine and 1.2 ml of 1-trimethylsiloxy-cyclohexene. After the addition the mixture is stirred at 0° C. for a further 30 min., then concentrated, treated with ice-water and made basic by the addition of sodium carbonate. The mixture is extracted 3 times with 100 ml of ethyl acetate each time. The organic phases are combined, dried over magnesium sulphate, filtered and the filtrate is concentrated. 1.63 g of (RS)-2-(2-acryloyl-1,2-dihydro-phthalazin-1-yl)-cyclohexanone (mixture of diastereomers) are isolated as a brownish oil. MS: 282 (M+).

reactant | acryloyl chloride | 0.53 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | phthalazine | 0.78 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | 1-trimethylsiloxy-cyclohexene | 1.2 ml | C[Si](OC1=CCCCC1)(C)C | C9H18OSi
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (RS)-2-(2-acryloyl-1,2-dihydro-phthalazin-1-yl)-cyclohexanone | 1.63 g | C(C=C)(=O)N1C(C2=CC=CC=C2C=N1)C1C(CCCC1)=O | C17H18N2O2
